US09084794B2
a) 7-bromo-8-methoxyquinoline
In an oven dried round bottom flask under nitrogen, a solution of 7-bromoquinolin-8-ol (1 g, 4.46 mmol) in N,N-dimethylformamide (20 mL) at room temperature was treated with sodium hydride (60% dispersion in mineral oil, 0.268 g, 6.69 mmol) to give a bright yellow mixture and was stirred for 3 min. Iodomethane (0.307 mL, 4.91 mmol) was then added by syringe and the reaction was stirred for 30 min. The reaction was quenched carefully with water (50 mL) and diluted with ethyl acetate (100 mL). The layers were separated and the organic layer was dried over magnesium sulfate and concentrated in vacuo to give a liquid, which solidified to a white solid (1.06 g, quantitative yield) on standing overnight. MS(ES)+ m/e 237.8, 239.7 [M+H]+.

reactant | 7-bromoquinolin-8-ol | 4.46 mmol, 1 g | BrC1=CC=C2C=CC=NC2=C1O | C9H6BrNO
reactant | sodium hydride | 6.69 mmol, 0.268 g | [H-].[Na+]
reactant | Iodomethane | 4.91 mmol, 0.307 mL | IC | CH3I
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 7-bromo-8-methoxyquinoline | 1.06 g, quantitative yield | BrC1=CC=C2C=CC=NC2=C1OC | C10H8BrNO
